US06911468B2
(3) Ethyl (2R)-2-(4-{1-[2-(4-bromophenyl)ethan-1-yl]-5-methyl-1H-pyrrol-2-yl}phenoxy)-3-phenylpropanoate
To a solution of 4-[1-[2-(4-bromophenyl)ethan-1-yl]-5-methyl-1H-pyrrol-2-yl]phenol (3.00 g, 8.42 mmol), ethyl (S)-2-hydroxy-3-phenylpropanoate (1.96 g, 10.1 mmol) and triphenylphosphine (2.65 g, 10.1 mmol) in toluene (30 ml) was added diethyl azodicarboxylate (1.76 g, 10.1 mmol) and refluxed for 20 hours under heating. The insoluble matter was filtered out and the filtrate was diluted with ethyl acetate. The obtained solution was washed with water and dried over magnesium sulfate anhydride, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=8:1) to give the object compound as an oily substance. 2.40 g (yield: 54.0%)

reactant | 4-[1-[2-(4-bromophenyl)ethan-1-yl]-5-methyl-1H-pyrrol-2-yl]phenol | 8.42 mmol, 3.00 g | BrC1=CC=C(C=C1)CCN1C(=CC=C1C)C1=CC=C(C=C1)O | C19H18BrNO
reactant | ethyl (S)-2-hydroxy-3-phenylpropanoate | 10.1 mmol, 1.96 g | O[C@H](C(=O)OCC)CC1=CC=CC=C1 | C11H14O3
reactant | triphenylphosphine | 10.1 mmol, 2.65 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 10.1 mmol, 1.76 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl (2R)-2-(4-{1-[2-(4-bromophenyl)ethan-1-yl]-5-methyl-1H-pyrrol-2-yl}phenoxy)-3-phenylpropanoate | yield: 54.0% | BrC1=CC=C(C=C1)CCN1C(=CC=C1C)C1=CC=C(O[C@@H](C(=O)OCC)CC2=CC=CC=C2)C=C1 | C30H30BrNO3
